US07691850B2
(c) 6-({[((3S)-1-{(2R)-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-hydroxyethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a stirred solution of (1R)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol (90 mg, 0.28 mmol) in dry CH2Cl2 (2 mL) and dry EtOH (2 mL) was added 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (55 mg, 0.28 mmol) along with Na2SO4 (350 mg, 2.46 mmol). After 18 h at room temperature, NaBH4 (24 mg, 0.56 mmol) was added. After 2 h, the solution wa partitioned between ethyl acetate and the aqueous solution of sodium bicarbonate. The aqueous solution was extreacted several times with ethyl acetate. The organic fraction were pooled, concentrated and purified with column chromatography (silica, 0-8% MeOH in DCM (1% NH4OH)) affording a light yellow solid, which was completed with chiral purification. The title compound (5 mg, 3.6%) was provided as a white solid: LC/MS (ES) m/e 499 (M+H)+; 1H NMR (400 MHz, CD3OD): δ 8.56 (s, 1H), 8.14 (d, J=9.0 Hz, 1H), 7.57 (d, J=7.6 Hz, 1H), 7.10 (d, J=9.2 Hz, 1H), 6.89 (d, J=7.6 Hz, 1H), 5.82-5.84 (m, 1H), 4.03 (s, 3H), 3.64 (s, 2H), 3.39-3.41 (m, 1H), 3.09-3.12 (m, 1H), 2.87-3.07 (m, 2H), 2.59-2.67 (m, 2H), 2.48-2.52 (m, 2H), 2.28-2.36 (m, 2H), 1.86-1.97 (m, 1H), 1.37-1.46 (m, 1H), 1.16-1.18 (m, 1H).

reactant | (1R)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol | 0.28 mmol, 90 mg | NC[C@H]1CN(CC1)C[C@H](O)C1=C(C=NC2=CC=C(N=C12)OC)F | C16H21FN4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | 0.28 mmol, 55 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | Na2SO4 | 2.46 mmol, 350 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH4 | 0.56 mmol, 24 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 2 mL | CCO | C2H6O
product | 6-({[((3S)-1-{(2R)-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-hydroxyethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 5 mg, 3.6% | FC=1C=NC2=CC=C(N=C2C1[C@H](CN1C[C@@H](CC1)CNCC=1C=CC=2SCC(NC2N1)=O)O)OC | C24H27FN6O3S
